US06768019B2
Preparation of (E)-1-(4-methanesulfonyl-benzylidene)-3,4-dihydro-1H-naphthalene-2-one
4-methylsulfonylbenzaldehyde (1.0 g, 5.43 mmol) was dissolved in glacial acetic acid (20 ml) and con. Hydrochloric acid (10 ml) was added and cooled at 5-10° C. Then, beta-tetralone (0.72 ml, 5.45 mmol) was dropped slowly and stirred for 3 hours at the same temperature. At room temperature, water (200 ml) and dichloromethane (200 ml) were poured, separated with layers, washed with the saturated brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure. The residue was purified by performing a silica gel column chromatography (an eluting agent: ethylacetate/n-hexane=2/3, v/v) and 1.32 g of the present compound (productive yield 78%) was obtained as a yellow crystal.

reactant | 4-methylsulfonylbenzaldehyde | 5.43 mmol, 1.0 g | CS(=O)(=O)C1=CC=C(C=O)C=C1 | C8H8O3S
reactant | Hydrochloric acid | 10 ml | Cl | ClH
reactant | beta-tetralone | 5.45 mmol, 0.72 ml | C1CC2=CC=CC=C2CC1=O | C10H10O
reactant | water | 200 ml | O | H2O
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | ethylacetate n-hexane | C(C)OC(C)=O.CCCCCC
solvent | dichloromethane | 200 ml | ClCCl | CH2Cl2
product | (E)-1-(4-methanesulfonyl-benzylidene)-3,4-dihydro-1H-naphthalene-2-one | 1.32 g, yield 78% | CS(=O)(=O)C1=CC=C(\C=C/2\C(CCC3=CC=CC=C23)=O)C=C1 | C18H16O3S
